US07863332B2
In a manner similar to that of Example (7a), by reaction of 3.2 g (0.016 mol, 1 eq) of (3-bromo-4-methylphenyl)methylamine, 4.06 g (0.016 mol, 1 eq) of pinacol diborane and 4.7 g (0.048 mol, 3 eq) of potassium acetate in the presence of 650 mg (5 mol %) of diphenylphosphinoferrocenepalladium dichloride in 20 ml of dimethylformamide, at 90° C. for 8 hours, 3.28 g of methyl[4-methyl-3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]amine are obtained. Yield=83%

reactant | (3-bromo-4-methylphenyl)methylamine | 0.016 mol, 3.2 g, 1 eq | BrC=1C=C(C=CC1C)CN | C8H10BrN
reactant | pinacol diborane | 0.016 mol, 4.06 g, 1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.048 mol, 4.7 g, 3 eq | C(C)(=O)[O-].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl[4-methyl-3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]amine | 3.28 g, Yield=83% | CNC1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C | C14H22BNO2
